US07968581B2
Step 5: 4-[2,5-dioxo-4-(3-methylphenyl)-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile
To a solution of 4-[(2-propenyloxy)methyl]-4-(3-methylphenyl)imidazolidine-2,5-dione (899 mg) and 4-bromo-2-(trifluoromethyl)benzonitrile (863 mg) in DMAC (5 mL) is added copper (I) oxide (395 mg). The mixture is refluxed overnight at 130° C. The mixture is concentrated, taken in ethyl acetate, washed with a 10% aqueous ammonia solution and brine. The organic phase is dried over magnesium sulfate, concentrated under vacuum and purified on silica gel (ethyl acetate/cyclohexane 0/100 to 50/50) to give the desired compound.

reactant | 4-[(2-propenyloxy)methyl]-4-(3-methylphenyl)imidazolidine-2,5-dione | 899 mg | C(C=C)OCC1(NC(NC1=O)=O)C1=CC(=CC=C1)C | C14H16N2O3
reactant | 4-bromo-2-(trifluoromethyl)benzonitrile | 863 mg | BrC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3BrF3N
solvent | DMAC | 5 mL | CC(=O)N(C)C | C4H9NO
catalyst | copper (I) oxide | 395 mg | [Cu-]=O
product | 4-[2,5-dioxo-4-(3-methylphenyl)-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | O=C1N(C(C(N1)(COCC=C)C1=CC(=CC=C1)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C22H18F3N3O3
